US07820698B2
Step 2: N-(3-chloromethyl-phenyl)-methane-sulphonamide
A solution of (3-amino-phenyl)-methanol (388 mg, 3.15 mmoles), lithium chloride (270 mg, 6.3 mmoles) and 2,6-lutidine (0.821 mL, 6.93 mmoles) in DMF (10 mL) was cooled at 0° C. under nitrogen atmosphere. Methanesulphonylchloride (0.536 mL, 6.93 mmoles) was added dropwise, and the mixture was stirred at room temperature for 3 hours. Water (30 mL) was then added, and the mixture was extracted with AcOEt (3×40 mL). The organic layer was washed with brine, dried over Na2SO4 and evaporated to dryness. The crude material was purified by flash chromatography (SiO2, petroleum ether/AcOEt from 10/0 to 8/2) to yield 330 mg of the title compound.

reactant | (3-amino-phenyl)-methanol | 3.15 mmoles, 388 mg | NC=1C=C(C=CC1)CO | C7H9NO
reactant | lithium chloride | 6.3 mmoles, 270 mg | [Cl-].[Li+]
reactant | 2,6-lutidine | 6.93 mmoles, 0.821 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | Methanesulphonylchloride | 6.93 mmoles, 0.536 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | Water | 30 mL | O | H2O
product | N-(3-chloromethyl-phenyl)-methane-sulphonamide | 330 mg | ClCC=1C=C(C=CC1)NS(=O)(=O)C | C8H10ClNO2S
